US07625889B2
Step 2: 4-Fluoro-N-[2-fluoro-5-(1H-pyrrolo[2,3-c]pyridin-5-yl)-benzyl]-N-(2-pyrrolidin-1-yl-ethyl)-benzamide:
N-{5-[4-((E)-2-Dimethylamino-vinyl)-5-nitro-pyridin-2-yl]-2-fluoro-benzyl}-4-fluoro-N-(2-pyrrolidin-1-yl-ethyl)-benzamide (485 mg, 0.9 mmol) in 30 mL of ethyl acetate was treated with 100 mg of 10% Pd/C under 3 bar of hydrogen for 18 h. The mixture was filtered through celite and the filtrate was concentrated in vacuo. The residue was chromatographed (alumina, elution with 2% methanol/dichloromethane) to afford 230 mg of product. LC/MS: Retention time, 1.79 min; (M+H)=461. 1H NMR (400 MHz, DMSO-D6) δ ppm: 1.61 (br s, 4H) 2.37 (br ss, 2H) 2.56-2.71 (br s, 2H) 3.45 (t, J=6.26 Hz, 2H) 4.75 (s, 2H) 6.55 (s, 1H) 7.17-7.28 (m, 3H) 7.45-7.52 (m, 2H) 7.56 (t, J=2.64 Hz, 1H) 8.00 (ddd, J=8.30, 5.44, 2.31 Hz, 2H) 8.07 (d, J=7.47 Hz, 1H) 8.82 (s, 1H) 11.40 (s, 1H).

reactant | N-{5-[4-((E)-2-Dimethylamino-vinyl)-5-nitro-pyridin-2-yl]-2-fluoro-benzyl}-4-fluoro-N-(2-pyrrolidin-1-yl-ethyl)-benzamide | 0.9 mmol, 485 mg | CN(/C=C/C1=CC(=NC=C1[N+](=O)[O-])C=1C=CC(=C(CN(C(C2=CC=C(C=C2)F)=O)CCN2CCCC2)C1)F)C | C29H31F2N5O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-Fluoro-N-[2-fluoro-5-(1H-pyrrolo[2,3-c]pyridin-5-yl)-benzyl]-N-(2-pyrrolidin-1-yl-ethyl)-benzamide | 230 mg | FC1=CC=C(C(=O)N(CCN2CCCC2)CC2=C(C=CC(=C2)C=2C=C3C(=CN2)NC=C3)F)C=C1 | C27H26F2N4O
